US05382595
4-(3-methoxy-6-pyridazinyl)benzaldehyde
The following compounds were synthesized in the same procedures as in the Preparation Example 2 except for using 2-chloropyridazine, 5-chloro-1-methyl-1,2-dihydro-2-oxopyridine, 3-chloro-6-tert-butylpyridazine, 5-chloro-2-(3,4-dimethoxyphenyl)methyl)pyridine respectively instead of 3-chloro-6-methoxypyridazine.

reactant | 2-chloropyridazine | ClN1NC=CC=C1 | C4H5ClN2
reactant | 5-chloro-1-methyl-1,2-dihydro-2-oxopyridine | ClC=1C=CC(N(C1)C)=O | C6H6ClNO
reactant | 3-chloro-6-tert-butylpyridazine | ClC=1N=NC(=CC1)C(C)(C)C | C8H11ClN2
reactant | 3-chloro-6-methoxypyridazine | ClC=1N=NC(=CC1)OC | C5H5ClN2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(3-methoxy-6-pyridazinyl)benzaldehyde | COC=1N=NC(=CC1)C1=CC=C(C=O)C=C1 | C12H10N2O2
